US05736533
Lactose was contacted with UDP-N-acetylglucosamine and a β-galactoside β1-3 N-acetylglucosaminyl transferase purified from pig serum in a 0.1M HEPS buffered aqueous solution at 37° C. The product tetrasaccharide was then contacted with UDP--Gal and a β-N-acetylglucosaminoside β1-4 Galactosyltransferase isolated from bovine milk, in a 0.1M HEPS buffered aqueous solution at 37° C. The product tetrasaccharide was then contacted with CMP--NAN and a β-galactoside α2-6 sialyltransferase isolated from rat liver in a 0.1M HEPES buffered aqueous solution at 37° C. The title pentasaccharide was isolated by conventional methods.

reactant | Lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
reactant | UDP-N-acetylglucosamine | CC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@@H]1OP(=O)(O)OP(=O)(O)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=CC(=O)NC3=O)O)O)CO)O)O | C17H27N3O17P2
product | Gal | OC1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C6H12O6
